US06083961
To a mixture of 4-[2,6-dimethyl-3-[N-(4-(methylcarbamoyl)cinnamoylglycyl]-N-methylamino]benzyloxy]-2-mercapto-1-methyl-1H-benzimidazole (34.9 mg), potassium carbonate (10.1 mg) and N,N-dimethylformamide (0.4 ml) was added methyl iodide (4 μl) at ambient temperature, and the mixture was stirred for 16 hours. The reaction mixture was poured into water, and extracted with chloroform. The extract was washed with water and brine, dried over magnesium sulfate and evaporated in vacuo. The residue was purified by preparative thin layer chromatography (ethyl acetate:methanol=10:1, v/v) to give 4-[2,6-dimethyl-3-[N-[4-(methylcarbamoyl)cinnamoylglycyl]-N-methylamino]benzyloxy]-1-methyl-2-methylthio-1H-benzimidazole (21.2 mg).

reactant | 4-[2,6-dimethyl-3-[N-(4-(methylcarbamoyl)cinnamoylglycyl]-N-methylamino]benzyloxy]-2-mercapto-1-methyl-1H-benzimidazole | 34.9 mg | CC1=C(COC2=CC=CC=3N(C(=NC32)S)C)C(=CC=C1N(C)C(CNC(C=CC1=CC=C(C=C1)C(NC)=O)=O)=O)C | C31H33N5O4S
reactant | potassium carbonate | 10.1 mg | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethylformamide | 0.4 ml | CN(C=O)C | C3H7NO
reactant | methyl iodide | 4 μl | CI | CH3I
solvent | water | O | H2O
product | 4-[2,6-dimethyl-3-[N-[4-(methylcarbamoyl)cinnamoylglycyl]-N-methylamino]benzyloxy]-1-methyl-2-methylthio-1H-benzimidazole | 21.2 mg | CC1=C(COC2=CC=CC=3N(C(=NC32)SC)C)C(=CC=C1N(C)C(CNC(C=CC1=CC=C(C=C1)C(NC)=O)=O)=O)C | C32H35N5O4S
